US04680296
1-[3-[4-(Diphenylhydroxymethyl)-1-piperidinyl]propyl]-2,4-(1H,3H)-quinazolinedione
2.7 g (0.01 mole) of 4-(diphenylhydroxymethyl) piperidine, 1.2 g (0.005 mole) of 1-(3-chloropropyl)-2,4(1H,3H)-quinazolinedione in 75 ml of ethanol are heated at reflux temperature for 7 h.

reactant | 4-(diphenylhydroxymethyl) piperidine | 0.01 mole, 2.7 g | C1(=CC=CC=C1)C(C1CCNCC1)(O)C1=CC=CC=C1 | C18H21NO
reactant | 1-(3-chloropropyl)-2,4(1H,3H)-quinazolinedione | 0.005 mole, 1.2 g | ClCCCN1C(NC(C2=CC=CC=C12)=O)=O | C11H11ClN2O2
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 1-[3-[4-(Diphenylhydroxymethyl)-1-piperidinyl]propyl]-2,4-(1H,3H)-quinazolinedione | C1(=CC=CC=C1)C(C1CCN(CC1)CCCN1C(NC(C2=CC=CC=C12)=O)=O)(O)C1=CC=CC=C1 | C29H31N3O3
